US08110575B2
5-(6-(2-ethyl-6-fluorindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
63 μL (0.25 mmol) 4M aqueous hydrochloric acid were added to 516 mg (2.00 mmol) (6-chloro-pyrimidin-4-yl)-(2-ethyl-6-fluoro-2,3-dihydro-indol-1-yl)-methanone and 611 mg (2.00 mmol) 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one in 10 mL of 2-pentanol. The reaction mixture was refluxed for 6 h. The reaction mixture was evaporated down using the rotary evaporator and the residue was taken up in DMF. The purification was carried out by preparative HPLC. The product fractions were combined and lyophilised.

reactant | hydrochloric acid | 0.25 mmol, 4M, 63 μL | Cl | ClH
reactant | (6-chloro-pyrimidin-4-yl)-(2-ethyl-6-fluoro-2,3-dihydro-indol-1-yl)-methanone | 2.00 mmol, 516 mg | ClC1=CC(=NC=N1)C(=O)N1C(CC2=CC=C(C=C12)F)CC | C15H13ClFN3O
reactant | 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 2.00 mmol, 611 mg | NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
solvent | 2-pentanol | 10 mL | CC(CCC)O | C5H12O
product | 5-(6-(2-ethyl-6-fluorindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | C(C)C1N(C2=CC(=CC=C2C1)F)C(=O)C1=CC(=NC=N1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C30H25FN6O2
